Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Lipitor / atenolol
 
Attending: ___.
 
Chief Complaint:
Benign prostatic hypertrophy and bladder outlet obstruction.
 
Major Surgical or Invasive Procedure:
 Transurethral laser photovaporization and resection of 
prostate.

 
History of Present Illness:
___ LUTS with BPH
 
Past Medical History:
 CAD, BPH, LUTS

Cardiac clearance obtained preop for history of 75% lesion of 
the middle portion of the LAD and an 80% stenosis of the middle 
portion of the circumflex artery
 
Social History:
___
Family History:
noncontributory 
 
Physical Exam:
WDWN, NAD, AVSS
Abdomen soft, non-distended 
Bilateral lower extremities w/out edema, pitting or pain to deep 
palpation of calves

 
Pertinent Results:
___ 12:50PM BLOOD WBC-9.7 RBC-3.96* Hgb-13.4* Hct-37.6* 
MCV-95 MCH-33.8* MCHC-35.6 RDW-11.9 RDWSD-41.2 Plt ___
 
Brief Hospital Course:
Mr. ___ was admitted to Dr. ___ service after 
transurethral laser photovaporization and resection of prostate. 
No concerning intraoperative events occurred; please see 
dictated operative note for details. He patient received 
___ antibiotic prophylaxis. The patient's 
postoperative course was uncomplicated. He received intravenous 
antibiotics and continuous bladder irrigation overnight. On POD1 
the CBI was discontinued and Foley catheter was removed with an 
active vodiding trial.  Post void residuals were checked. His 
urine was clear and and without clots. He remained a-febrile 
throughout his hospital stay.  At discharge, the patient had 
pain well controlled with oral pain medications, was tolerating 
regular diet, ambulating without assistance, and voiding without 
difficulty.  He was given oral pain medications on discharge and 
a course of antibiotics along with explicit instructions to 
follow up in clinic.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Aspirin 81 mg PO DAILY 
2. amLODIPine 2.5 mg PO DAILY 
3. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
4. Rosuvastatin Calcium 5 mg PO QPM 
5. Tamsulosin 0.4 mg PO QHS 
6. Avodart (dutasteride) 0.5 mg oral Other 
7. Ranitidine 150 mg PO DAILY:PRN dyspepsia 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild  
2.  Phenazopyridine 100 mg PO Q8H:PRN dysuria Duration: 3 Days 
RX *phenazopyridine [Pyridium] 100 mg one tablet(s) by mouth 
q8hrs Disp #*9 Tablet Refills:*0 
3.  Senna 8.6 mg PO BID 
RX *sennosides [Senokot] 8.6 mg one tab by mouth ___ x daily 
Disp #*30 Tablet Refills:*0 
4.  amLODIPine 2.5 mg PO DAILY  
5.  Aspirin 81 mg PO DAILY  
6.  Avodart (dutasteride) 0.5 mg oral Other  
7.  Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY  
8.  Ranitidine 150 mg PO DAILY:PRN dyspepsia  
9.  Rosuvastatin Calcium 5 mg PO QPM  
10.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
 Benign prostatic hypertrophy and bladder outlet obstruction.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
These steps can help you recover after your procedure. 
•DO drink plenty of water to flush out the bladder. 
•DO avoid straining during a bowel movement. Eat 
fiber-containing foods and avoid foods that can cause 
constipation. Ask your doctor if you should take a laxative if 
you do become constipated. 
•Don't take blood-thinning medications until your doctor says 
it's OK. 
•Don't do any strenuous activity, such as heavy lifting, for 
four to six weeks or until your doctor says it's OK. 
•Don't have sex. You'll likely be able to resume sexual 
activity in about four to six weeks. 
•Don't drive until your doctor says it's OK. ___, you can 
drive once your catheter is removed and you're no longer taking 
prescription pain medications. 

•You may continue to periodically see small amounts of blood in 
your urine--this is normal and will gradually improve. You may 
have clear or yellow urine that periodically turns pink/red 
throughout the healing process. Generally, the discoloration of 
the urine is “OK” unless it transitions from ___, 
___ Aid to a very dark, thick or “like tomato juice” 
color

•Resume your pre-admission/home medications EXCEPT as noted. 
You should ALWAYS call to inform, review and discuss any 
medication changes and your post-operative course with your 
primary care team.  

•Unless otherwise advised, blood thinning medications like 
ASPIRIN should be held until the urine has been clear/yellow for 
at least three days.  Your medication reconciliation will note 
if you may resume aspirin or prescription blood thinners (like 
Coumadin (warfarin), Xarelto, Lovenox, etc.)

•If needed, you will be prescribed an antibiotic to continue 
after discharge or save until your Foley catheter is removed 
(called a “trial of void” or “void trial”).  

•You may be discharged home with a medication called PYRIDIUM 
that will help with the "burning" pain you may experience when 
voiding. This medication may turn your urine bright orange.

•Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication. 
Discontinue if loose stool or diarrhea develops. Colace is a 
stool softener, NOT a laxative, and it is available 
over-the-counter 

•AVOID STRAINING for bowel movements as this may stir up 
bleeding.  Avoid  constipating foods for ___ weeks, and drink 
plenty of fluids to keep hydrated

•No vigorous physical activity or sports for 4 weeks or until 
otherwise advised

•Do not lift anything heavier than a phone book (10 pounds) or 
participate in high intensity physical activity (which includes 
intercourse) for a minimum of four weeks or until you are 
cleared by your Urologist in follow-up

•Acetaminophen (Tylenol) should be your first-line pain 
medication. A narcotic pain medication may also be prescribed 
for breakthrough or moderate pain.  

•The maximum daily Tylenol/Acetaminophen dose is 3 grams from 
ALL sources. 

•Do not drive or drink alcohol while taking narcotics and do 
not operate dangerous machinery.  

WHEN YOU ARE DISCHARGED WITH A FOLEY CATHETER:
o-Please also reference the nursing handout and instructions on 
routine care and hygiene

o-Your Foley should be secured to the catheter secure on your 
thigh at ALL times until your follow up with the surgeon.

o-DO NOT allow anyone outside your urologist/team 
representative remove your Foley for any reason.

o-Wear Large Foley bag for majority of time. The leg bag (if 
provided)  is for short-duration periods and the bag must be 
emptied frequently.

o-Do NOT drive if you have a Foley in place (for your 
safety-but of course you may be a passenger
 
Followup Instructions:
___